US07109186B2
Compound 826: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid 3,5-difluoro-benzylamide
A mixture of N-(3,5-difluoro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetamide (60 mg, 0.2 mmol) and a 0.2 mmol solution of methylene-(2-morpholin-4-yl-ethyl)-amine in methanol (1.25 mL, 0.25 mmol) was heated at 70° C. for 1 h. The reaction mixture was cooled to room temperature and purified by preparative HPLC using methanol/water (0.1% TFA) as the eluent. The fractions containing the product were combined and concentrated to give the title compound as a white powder (22 mg, 22% yield). 1H NMR (500 MHz, DMSO) δ: 11.95 (1H, br s), 9.54 (1H, br s), 8.08 (1H, t, J=6.1 Hz), 7.12–7.08 (1H, m), 7.00–6.94 (2H, m), 4.45 (2H, d, J=6.1 Hz), 4.05 (2H, s), 4.02–3.94 (2H, m), 3.83–3.77 (2H, m), 3.69–3.38 (6H, m), 3.16–3.05 (2H, m). HRMS calcd for C18H20F2N3O4 (M−H): 380.1422. found: 380.1422.

reactant | N-(3,5-difluoro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetamide | 0.2 mmol, 60 mg | FC=1C=C(CNC(C=C2OC(OC2=O)(C)C)=O)C=C(C1)F | C14H13F2NO4
reactant | methylene-(2-morpholin-4-yl-ethyl)-amine | C=NCCN1CCOCC1 | C7H14N2O
reactant | methanol | 0.25 mmol, 1.25 mL | CO | CH4O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid 3,5-difluoro-benzylamide | 22 mg, 22% yield | FC=1C=C(CNC(=O)C=2CN(C(C2O)=O)CCN2CCOCC2)C=C(C1)F | C18H21F2N3O4
